US04381401
Preparation of N-Methyl-N'-phenyl-1,2-ethanediamine
A mixture of aniline hydrochloride (13.0 g, 0.10 mole), 3-methyl-2-oxazolidinone (11.0 g, 0.109 mole) and 35 ml of 2-(2-methoxyethoxy)ethanol was heated to 170° C. in an oil bath. The reaction mixture became homogenous and carbon dioxide evolution occurred on heating. After 17 hours, the reaction was allowed to cool to room temperature. After a workup procedure similar to that described in Example 1 and distillation at 105° C. to 110° C. (0.4 mm), an 81 percent distilled yield of the product was obtained as a clear liquid. Product confirmation was made by the use of spectra evidence.

reactant | aniline hydrochloride | 0.10 mole, 13.0 g | Cl.NC1=CC=CC=C1
reactant | 3-methyl-2-oxazolidinone | 0.109 mole, 11.0 g | CN1C(OCC1)=O | C4H7NO2
reactant | 2-(2-methoxyethoxy)ethanol | 35 ml | COCCOCCO | C5H12O3
reactant | carbon dioxide | C(=O)=O | CO2
product | N-Methyl-N'-phenyl-1,2-ethanediamine | CNCCNC1=CC=CC=C1 | C9H14N2
